US06881844B2
A solution of triphenylphosphine (2.42 mg, 9.22 mmol) in methylene chloride (25 mL) cooled to 0° C. was treated with N-bromosuccinimide (1.64 mg, 9.22 mmol). The reaction was stirred at 0° C. for 15 min. At this time, the reaction was treated with 6-bromo-1-isopropyl-1H-indole-3-carboxylic acid (2.0 g, 7.09 mmol). The reaction was stirred at 0° C. for 15 min and then was allowed to warm to 25° C. where it was stirred for 15 min. The reaction was then treated with 2-aminothiazole (1.63 g, 16.31 mmol) and stirred at 25° C. for 18 h. At this time, the mixture was partitioned between water (150 mL) and ethyl acetate (150 mL) and treated with a 1N aqueous hydrochloric acid solution (100 mL). The organic layer was washed with a saturated aqueous sodium bicarbonate solution (1×100 mL), water (1×100 mL), and a saturated aqueous sodium chloride solution (1×100 mL). The organic layer was then dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 1/1 hexanes/ethyl acetate) afforded 6-bromo-1-isopropyl-1H-indole-3-carboxylic acid thiazol-2-ylamide (300 mg, 11.6%) as white solid: mp 205-207° C.; EI-HRMS m/e calcd for C15H14BrN3OS (M+) 363.0041, found 363.0034.

reactant | triphenylphosphine | 9.22 mmol, 2.42 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 9.22 mmol, 1.64 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-bromo-1-isopropyl-1H-indole-3-carboxylic acid | 7.09 mmol, 2.0 g | BrC1=CC=C2C(=CN(C2=C1)C(C)C)C(=O)O | C12H12BrNO2
reactant | 2-aminothiazole | 16.31 mmol, 1.63 g | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 6-bromo-1-isopropyl-1H-indole-3-carboxylic acid thiazol-2-ylamide | 300 mg, 11.6% | S1C(=NC=C1)NC(=O)C1=CN(C2=CC(=CC=C12)Br)C(C)C | C15H14BrN3OS
